US05646149
Preparation of 6-hydroxy-2,5,7,8-tetramethylchroman-2-acetyl 4-(4,4'difluorobenzhydryl)piperazine.
A solution of dicyclohexyl carbodiimide (Aldrich, 3.55 g, 17.23 mmol) in methylene chloride (50 mL) was added dropwise to a slurry comprised of 6-hydroxy-2,5,7,8-tetramethylchroman-2-acetic acid (4.14 g, 15.66 mmol), 4,4'-difluorobenzhydryl piperazine (Schweizerhall, 4.51 g, 15.66 mmol), and 1-hydroxybenzotriazole hydrate (Aldrich, 2.33 g, 17.23 mmol) in methylene chloride (150 mL) which was cooled by an ice/water bath. After the addition was complete, the reaction mixture was allowed to come to ambient temperature and was stirred at ambient temperature for 12 h. The reaction was filtered and the filtrate was concentrated in vacuo. The residue was chromatographed (flash, silica gel, 95:5 methylene chloride/methanol) to give an oil which crystallized from a mixture of ethyl acetate and hexane. The solid was crystallized from ethanol to give 3.67 g (43.8% yield) of the desired product as a white solid.

reactant | dicyclohexyl carbodiimide | 17.23 mmol, 3.55 g | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
reactant | 6-hydroxy-2,5,7,8-tetramethylchroman-2-acetic acid | 15.66 mmol, 4.14 g | OC=1C(=C2CCC(OC2=C(C1C)C)(CC(=O)O)C)C | C15H20O4
reactant | 4,4'-difluorobenzhydryl piperazine | 15.66 mmol, 4.51 g | FC1=CC=C(C(C2=CC=C(C=C2)F)N2CCNCC2)C=C1 | C17H18F2N2
reactant | 1-hydroxybenzotriazole hydrate | 17.23 mmol, 2.33 g | O.ON1N=NC2=C1C=CC=C2
solvent | methylene chloride | 50 mL | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 150 mL | C(Cl)Cl | CH2Cl2
product | 6-hydroxy-2,5,7,8-tetramethylchroman 2-acetyl 4-(4,4'difluorobenzhydryl)piperazine | 3.67 g, 43.8% yield | OC=1C(=C2CCC(OC2=C(C1C)C)C)C.C(C)(=O)C1NCCN(C1)C(C1=CC=C(C=C1)F)C1=CC=C(C=C1)F | InChI=1S/C19H20F2N2O.C13H18O2/c1-13(24)18-12-23(11-10-22-18)19(14-2-6-16(20)7-3-14)15-4-8-17(21)9-5-15;1-7-5-6-11-10(4)12(14)8(2)9(3)13(11)15-7/h2-9,18-19,22H,10-12H2,1H3;7,14H,5-6H2,1-4H3
